US09108939B2
1-(3-Fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(methyl)amino)phenyl)-3-(pyridin-4-yl)urea
2-(4-((4-((4-Amino-2-fluorophenyl)(methyl)amino)piperidin-1-yl)methyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.209 mmol, 100 mg) and phenyl pyridin-4-ylcarbamate (0.313 mmol, 67.0 mg) were combined in tetrahydrofuran (1 mL) and dioxane (1 mL) and heated to 80° C. overnight. The reaction mixture was concentrated under vacuum. The residue was purified by prep-HPLC (acidic conditions) and SCX chromatography to afford title compound (83.9 mg). MS (ESI) m/z 600.2 [M+H]+

reactant | 2-(4-((4-((4-Amino-2-fluorophenyl)(methyl)amino)piperidin-1-yl)methyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.209 mmol, 100 mg | NC1=CC(=C(C=C1)N(C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C)F | C22H24F7N3O
reactant | phenyl pyridin-4-ylcarbamate | 0.313 mmol, 67.0 mg | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(3-Fluoro-4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)(methyl)amino)phenyl)-3-(pyridin-4-yl)urea | 83.9 mg | FC=1C=C(C=CC1N(C)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)NC1=CC=NC=C1 | C28H28F7N5O2
